US07943795B2
F. 6-(1-Ethylpropenyl)naphthalene-2-carboxylic acid methyl ester
Treat a mixture containing trifluoromethanesulfonic acid 6-(1-ethylpropenyl)naphthalen-2-yl ester (0.92 g, 2.67 mmol), Pd(OAc)2 (0.020 mg, 0.09 mmol), bis-(diphenylphosphino)ferrocene (0.046 g, 0.083 mmol), Et3N (0.67 mL, 4.81 mmol), in MeOH (10 mL) and DMSO (15 mL) with carbon monoxide at 100 psi at 80° C. for 4 h. Pour the reaction mixture into ether (100 mL) and wash the mixture with brine (4×50 mL). Dilute the organic layer with EtOAc (100 mL), wash with brine, then dry over Na2SO4 and filter. Concentrate the filtrate to give the title compound as an off-white solid (0.67 g, quant). MS (ES) in/e 255 (M+1).

reactant | trifluoromethanesulfonic acid 6-(1-ethylpropenyl)naphthalen-2-yl ester | 2.67 mmol, 0.92 g | C(C)C(=CC)C=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C(F)(F)F | C16H15F3O3S
reactant | Et3N | 4.81 mmol, 0.67 mL | CCN(CC)CC | C6H15N
reactant | DMSO | 15 mL | CS(=O)C | C2H6OS
reactant | carbon monoxide | [C]=O | CO
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(OAc)2 | 0.09 mmol, 0.020 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | bis-(diphenylphosphino)ferrocene | 0.083 mmol, 0.046 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-(1-Ethylpropenyl)naphthalene-2-carboxylic acid methyl ester | 0.67 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(=CC)CC | C17H18O2
